US04994485
(a) Preparation of 2-methylthio-3,5-dicyano-4-hydroxythiophene.
A cold, highly concentrated solution of 25 g of KOH in approximately 15 ml of water is slowly added dropwise to a solution of 20.0 g of cyanoacetic acid methyl ester and 18.0 g of carbon disulphide in approximately 300 ml of dimethyl formamide while stirring and cooling to below approximately 0° C. After stirring for another 20 minutes, a solution of 15.5 g of chloroacetonitrile in 10 ml of acetonitrile is added dropwise to the reaction mixture at -5° C. to 0° C. After stirring for another 30 minutes, a highly concentrated solution of 13 g of KOH in water is added and stirred for 30 minutes at 40° C. Then 29 g of methyl iodide are added dropwise and, after 30 minutes, 25 ml of concentrated hydrochloric acid. After concentration of the reaction mixture under reduced pressure to approximately 300 ml, approximately 600 ml of water are added. The resulting precipitate is sucked off, washed successively with water, little isopropanol and di-isopropyl ether, and dried. The desired product is obtained in a yield of 19.0 g; the substance decomposes above 200° C.

reactant | KOH | 25 g | [OH-].[K+]
reactant | cyanoacetic acid methyl ester | 20.0 g | COC(CC#N)=O | C4H5NO2
reactant | chloroacetonitrile | 15.5 g | ClCC#N | C2H2ClN
reactant | KOH | 13 g | [OH-].[K+]
reactant | methyl iodide | 29 g | CI | CH3I
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | carbon disulphide | 18.0 g | C(=S)=S | CS2
solvent | water | approximately 15 ml | O | H2O
solvent | dimethyl formamide | approximately 300 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | approximately 600 ml | O | H2O
product | 2-methylthio-3,5-dicyano-4-hydroxythiophene | CSC=1SC(=C(C1C#N)O)C#N | C7H4N2OS2
